US05756743
1-[4-[3-(7-Fluoro-1,4-dihydrospiro[cyclopent[b]indole-3(2H),4'-piperidine]-1'-yl)propoxyl]-3-methoxyphenyl]ethanone hydrate
To a solution of 1,4-dihydro-7-fluorospiro[cyclopent[b]indole-3(2H),4'-piperidine] (3.00 g) in acetonitrile (30 ml) was added cesium carbonate (6.97 g) and 1-[4-(3-bromopropoxy)-3-methoxyphenyl]ethanone (3.38 g), under nitrogen, with stirring. The reaction mixture was heated at 80° C. for 3 hrs and allowed to cool to ambient temperature. The mixture was extracted with ethyl acetate. The extracts were washed with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was flashed chromatographed (silica gel) eluting with 1% acetone/dichloromethane. The appropriate fractions were collected and concentrated to give 1.00 g (30%) of product, mp 165°-166° C.

reactant | 1,4-dihydro-7-fluorospiro[cyclopent[b]indole-3(2H),4'-piperidine] | 3.00 g | FC1=CC=2C3=C(NC2C=C1)C1(CCNCC1)CC3 | C15H17FN2
reactant | cesium carbonate | 6.97 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-[4-(3-bromopropoxy)-3-methoxyphenyl]ethanone | 3.38 g | BrCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15BrO3
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-[4-[3-(7-Fluoro-1,4-dihydrospiro[cyclopent[b]indole-3(2H),4'-piperidine]-1'-yl)propoxyl]-3-methoxyphenyl]ethanone hydrate | 1.00 g, 30% | O.FC1=CC=2C3=C(NC2C=C1)C1(CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC)CC3 | InChI=1S/C27H31FN2O3.H2O/c1-18(31)19-4-7-24(25(16-19)32-2)33-15-3-12-30-13-10-27(11-14-30)9-8-21-22-17-20(28)5-6-23(22)29-26(21)27;/h4-7,16-17,29H,3,8-15H2,1-2H3;1H2
